US06573293B2
5-[5-(3-Chlorophenylsulfamoyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (2-diethylaminoethyl)amide
2-Oxo-2,3-dihydro-1H-indole-5-sulfonic acid (3-chlorophenyl)amide (120 mg, 3.8 mmol) was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylaminoethyl)amide (100 mg) to give 80 mg (37%) of the title compound as a yellow solid.

reactant | 2-Oxo-2,3-dihydro-1H-indole-5-sulfonic acid (3-chlorophenyl)amide | 3.8 mmol, 120 mg | ClC=1C=C(C=CC1)NS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C14H11ClN2O3S
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylaminoethyl)amide | 100 mg | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=O)C)CC | C14H23N3O2
product | 5-[5-(3-Chlorophenylsulfamoyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (2-diethylaminoethyl)amide | 80 mg, 37% | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC=C(C=C12)S(NC1=CC(=CC=C1)Cl)(=O)=O)=O)C)CC | C28H32ClN5O4S
